US05006555
Preparation of 1-ethoxycarbonyloxy-2-phenylmethyl naphthalene (Formula (I) : R1 =phenyl, R2 =OCH2CH3. R3, R4, R5 =H).
A solution of 2-phenylmethyl-1-naphthol (5.00 g, 0.021 mol) and triethylamine (2.53 g, 0.025 mol) in dichloromethane (65 mL) was stirred at 0°. Ethyl chloroformate (2.73 g, 0.025 mol) was added and the mixture stirred for one hour at 0°, then for two hours at room temperature. Water was added and the mixture was extracted with dichloromethane. The organic phase was dried over MgSO4 and concentrated. The residue was flash chromatographed (5% ethyl acetate/hexane) to provide the title compound (6.50 g, 100%) as a viscous oil: NMR (CDCl3) 7.84 (t, J=8 Hz, 2H), 7.68 (d, J=7 Hz, IH), 7.50 (m, 2H), 7.25 (m, 6H), 4.30 (q, J=7 Hz, 2H), 4.IO (s, 2H), 1.36 (t, J=7 Hz, 3H); IR (neat) 1760; Mass Spec (EI) 306 (45), 262 (32), 234 (86), 215 (31); Calcd. for C20H18O3 : C-78.40 H-5.92; Found: C-78.49 H-6.06.

reactant | 2-phenylmethyl-1-naphthol | 0.021 mol, 5.00 g | C1(=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)O | C17H14O
reactant | triethylamine | 0.025 mol, 2.53 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl chloroformate | 0.025 mol, 2.73 g | ClC(=O)OCC | C3H5ClO2
reactant | Water | O | H2O
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
product | 1-ethoxycarbonyloxy-2-phenylmethyl naphthalene | 6.50 g, 100% | C(C)OC(=O)OC1=C(C=CC2=CC=CC=C12)CC1=CC=CC=C1 | C20H18O3
